US07342115B2
A mixture of 4-bromo-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic ethyl ester (308 mg, 0.82 mmol), methyl propargyl ether (0.69 mL, 8.2 mmol), Pd(PPh3)4 (95 mg, 0.082 mmol), and copper iodide (8 mg, 0.041 mmol) in diisopropylamine (8 mL) is heated at 105° C. in a sealed tube. After filtration through celite, the filtrate is concentrated in vacuo and the residue purified by flash chromatography to give 6-(2,6-diethyl-phenyl)-4-(3-methoxy-propyn-1-yl)-2-methyl-nicotinic acid ethyl ester as a yellow oil. 1H NMR (CDCl3) 7.36-7.29 (m, 2H), 7.20-7.15 (m, 2H), 4.47 (q, 2H), 4.32 (s, 2H), 3.41 (s, 3H), 2.62 (s, 3H), 2.38-2.27 (m, 4H), 1.41 (t, 3H), 1.06 (t, 6H).

reactant | 4-bromo-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic ethyl ester | 0.82 mmol, 308 mg | C(C)OC(C1=C(N=C(C=C1Br)C1=C(C=CC=C1CC)CC)C)=O | C19H22BrNO2
reactant | methyl propargyl ether | 8.2 mmol, 0.69 mL | C(C#C)OC | C4H6O
solvent | diisopropylamine | 8 mL | C(C)(C)NC(C)C | C6H15N
catalyst | Pd(PPh3)4 | 0.082 mmol, 95 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.041 mmol, 8 mg | [Cu](I)I
product | 6-(2,6-diethyl-phenyl)-4-(3-methoxy-propyn-1-yl)-2-methyl-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1C#CCOC)C1=C(C=CC=C1CC)CC)C)=O | C23H27NO3
